US04859684
A mixture of 5 parts of 4-(1H-imidazol-1-ylmethyl)-1,2-benzenediamine, 3 parts of 3-thiophenecarboxaldehyde and 50 parts of a hydrochloric acid solution 3N was stirred for 36 hours at reflux temperature. After cooling, the mixture was poured into 100 parts of crushed ice and ammonium hydroxide. The product was extracted three times with 75 parts of trichloromethane. The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography (HPLC) over silica gel using a mixture of trichloromethane, methanol and ammonium hydroxide (90:10:0.1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 8 parts of 2-propanone and ethanol at 0° C. The salt was filtered off and crystallized from a mixture of methanol and 2-propanone. The product was filtered off and dried, yielding 0.8 parts (8.5%) of 5-(1H-imidazol-1-ylmethyl)-2-(3-thienyl)-1H-benzimidazole dihydrochloride; mp.>300° C. (dec.) (compound 205).

reactant | 4-(1H-imidazol-1-ylmethyl)-1,2-benzenediamine | N1(C=NC=C1)CC=1C=C(C(=CC1)N)N | C10H12N4
reactant | 3-thiophenecarboxaldehyde | S1C=C(C=C1)C=O | C5H4OS
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 5-(1H-imidazol-1-ylmethyl)-2-(3-thienyl)-1H-benzimidazole dihydrochloride | 8.5% | Cl.Cl.N1(C=NC=C1)CC1=CC2=C(NC(=N2)C2=CSC=C2)C=C1 | InChI=1S/C15H12N4S.2ClH/c1-2-13-14(7-11(1)8-19-5-4-16-10-19)18-15(17-13)12-3-6-20-9-12;;/h1-7,9-10H,8H2,(H,17,18);2*1H
